US05366987
(c) Ethyl (±)-4-(1-dodecenyl)-α-phenyl-1H-pyrazole-1-acetate
A solution of n-BuLi (127 mL, 254 mmol, 2.0M in hexanes) was added dropwise to a suspension of n-undecyl-triphenylphosphonium bromide (121.6 g, 244 mmol, obtained from triphenylphosphine and undecylbromide) in 500 mL THF at -78° C. under an atmosphere of N2. The resulting orange solution was stirred for 1 hour before a solution of ethyl (±)-4-formyl-α-phenyl-1H-pyrazole-1-acetate in 250 mL THF was added dropwise. Warmed to room temperature and stirred for 16 hours. Quenched by adding 150 mL water and concentrating in vacuo. The residue was partitioned between water and dichloromethane. The organic layer was dried over MgSO4, filtered, and concentrated to give an oily tan solid. Triturated with boiling hexanes and filtered to remove triphenylphosphine oxide. The filtrate was concentrated and chromatographed (10% EtOAc/hexanes on silica) to give the title compound as a yellow oil, a 1:2 E/Z mixture (44.4 g, 50%).

reactant | n-BuLi | 254 mmol, 2.0M, 127 mL | [Li]CCCC
reactant | n-undecyl-triphenylphosphonium bromide | 244 mmol, 121.6 g | [Br-].C(CCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl (±)-4-formyl-α-phenyl-1H-pyrazole-1-acetate | C(=O)C=1C=NN(C1)C(C(=O)OCC)C1=CC=CC=C1 | C14H14N2O3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | Ethyl (±)-4-(1-dodecenyl)-α-phenyl-1H-pyrazole-1-acetate | C(=CCCCCCCCCCC)C=1C=NN(C1)C(C(=O)OCC)C1=CC=CC=C1 | C25H36N2O2
